US07691882B2
2-(4-Prop-2-ynyl-benzyloxy)-pyridine
To a solution of trimethylsilyl acetylene (496 μL, 3.51 mmol) in tetrahydrofuran (15 mL) was added ethyl magnesium bromide (3 M diethyl ether solution, 1.09 mL, 3.28 mmol) under nitrogen atmosphere at room temperature, which was stirred for 30 minutes at 65° C. The reaction solution was cooled to room temperature, and copper (I) bromide (168 mg, 1.17 mmol) and 2-(4-chloromethyl-benzyloxy)-pyridine (548 mg, 2.34 mmol) manufactured in Manufacturing Example 30-1-1 were added thereto and stirred for 15 hours and 10 minutes at 65° C. The reaction solution was partitioned into saturated aqueous ammonium chloride solution and ethyl acetate at room temperature. The organic layer was washed with saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. To a solution of the resulting residue in methanol (5 mL) and tetrahydrofuran (10 mL) was added potassium carbonate (647 mg, 4.68 mmol), which was stirred for 3 hours and 25 minutes at room temperature. The reaction solution was partitioned into water and ethyl acetate at room temperature. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=20:1) to obtain a mixture of the title compound and 2-(4-chloromethyl-benzyloxy)-pyridine (448 mg, target purity 20%, 17%).

reactant | trimethylsilyl acetylene | 3.51 mmol, 496 μL | C[Si](C)(C)C#C | C5H10Si
reactant | ethyl magnesium bromide | 3.28 mmol, 3 M, 1.09 mL | C(C)[Mg]Br
reactant | 2-(4-chloromethyl-benzyloxy)-pyridine | 2.34 mmol, 548 mg | ClCC1=CC=C(COC2=NC=CC=C2)C=C1 | C13H12ClNO
reactant | potassium carbonate | 4.68 mmol, 647 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-chloromethyl-benzyloxy)-pyridine | 448 mg | ClCC1=CC=C(COC2=NC=CC=C2)C=C1 | C13H12ClNO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
catalyst | copper (I) bromide | 1.17 mmol, 168 mg | [Cu]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(4-Prop-2-ynyl-benzyloxy)-pyridine | C(C#C)C1=CC=C(COC2=NC=CC=C2)C=C1 | C15H13NO
